US07560558B2
Dichloromethane (304 ml) and thionyl chloride (76 ml) were added to 3-hydroxynaphthalene-2-carboxylic acid (5 g), and the mixture was stirred under reflux for 4 hr. The solvent was then removed by distillation under the reduced pressure. Dioxane (200 ml) was added to the residue to prepare a solution. A solution of O,N-dimethylhydroxylamine hydrochloride (7.8 g) in a 2 N aqueous sodium hydroxide solution was added thereto, and the mixture was stirred at room temperature for one hr. Under ice cooling, the reaction solution was acidified by the addition of 4 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with an aqueous potassium carbonate solution and water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure to give 3-hydroxynaphthalene-2-carboxylic acid methoxymethylamide (660 mg, yield 11%).

reactant | thionyl chloride | 76 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxynaphthalene-2-carboxylic acid | 5 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | O,N-dimethylhydroxylamine hydrochloride | 7.8 g | Cl.CONC
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | Dichloromethane | 304 ml | ClCCl | CH2Cl2
product | 3-hydroxynaphthalene-2-carboxylic acid methoxymethylamide | 660 mg, yield 11% | COCNC(=O)C1=CC2=CC=CC=C2C=C1O | C13H13NO3
